US07122548B2
NH3 gas was bubbled through a solution of 4-(7-chloro-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol (70 mg, 0.25 mmol) in methanol (5 mL) at 0° C. The saturated solution was stirred at 70° C. until the starting material disappeared. After evaporation of solvent, the residue was purified on a silica gel column eluting with 10% methanol in dichloromethane to provide 4-(7-amino-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol (35 mg). 1H-NMR (400 MHz, DMSO-d6) δ 9.22 (s, 1H), 7.05 (d, 2H), 6.65 (d, 2H), 4.12 (s, 2H), 2.35 (s, 3H). MS (m/z) 257 [M+1].

reactant | NH3 | N | H3N
reactant | 4-(7-chloro-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol | 0.25 mmol, 70 mg | ClC1=NC=2N(N=C1C)C(=NN2)CC2=CC=C(C=C2)O | C12H10ClN5O
solvent | methanol | 5 mL | CO | CH4O
product | 4-(7-amino-6-methyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol | 35 mg | NC1=NC=2N(N=C1C)C(=NN2)CC2=CC=C(C=C2)O | C12H12N6O
